data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4594,"C[C:1](C)([NH2:2])[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6165,"CO[C:1](O)=[OH+:2].[NH3:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,10292,"C[S:1]([NH-])=[OH+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,4644,"COC(=O)C1C2=C(C=C(OC)C=C2)[C:1](C2=CC=CC=C2)([OH2+:2])C1CCC#N.CS(=O)(=O)[O-]|((1, 2), 2)"
train,pmechdb_split_0,0,6277,"CC(C)[O-].CCC(C)[O][Al-:1]([O]C(C)C)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,4350,"CCOC(=O)C(CC(C)=O)C(C)=[O:1].CO.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7055,"CCC(C)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9014,"CC(=O)[O-:1].O=C(C1=CC=C(F)C=C1)C(CC(O)(C1CCN(C(=O)OCC2=CC=CC=C2)CC1)[NH2+:2][H:3])C1=CC=NC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1182,"CC(C)[O-].CCCCCC1CC(CC(C)C)CC[C:1]1([H:2])[O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4150,"CN(C)C=[N:1]C.[Li][O+]=C[CH:2](P(=O)(OC)OC)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7212,"CC(=O)[O:1][C:2](C)(ON=C(C)C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3594,"[BH3-][P+](C)(C)[CH2-:1].[CH3:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1318,"C1CCC(N2CCOCC2)([OH:1])C1.CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1370,"C1=CC=C([C:1]([CH2:2][H:3])=[O:4])C=C1.[NH3:5].[NH4+]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,9939,"O=S(=O)(O)C1=CC=C2C=C[CH:1]=[CH:2]C2=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,5585,"CN[C:1](Cl)([NH2+:2]C)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7413,"C=CC(=O)O[C:1](C)=[O:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2833,"CCOCC(=O)NC1=C(NCC(C)(C)O)C2=C(C=CC=C2)[N:1]=[C:2]1Cl.[NH3:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1800,"C1=CC=C([CH2:1][Br:2])C=C1.C[C:3](C)=[C:4](C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7496,"CC(=O)C1=CC=C[CH:1]=[CH:2]1.O=[N+:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,10106,"COC1=C2C(=CC=C1)C1=CC=CC=C1N2C(C1=CC=CC=C1)[CH2:1][O:2]S(C)(=O)=O.[I-:3].[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7426,"CC(C)[C:1]1([H:2])C2=CC=CC=C2[C+:3](C)[CH:4]=[CH:5]1.[F-:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
train,pmechdb_split_0,0,8174,"CC(C)[C:1]1([H:2])OC=C(Br)[CH+:3]1.[F-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,9618,"CCCC[C:1]#[C:2]C1=CC=CC=C1SC.Cl[B:3]1OC2=C(C=CC=C2)O1|((1, 2), 3)"
train,pmechdb_split_0,0,4196,"CC(C)=CC1C(C(=O)[O:1][H:2])C1(C)C.CS(=O)(=O)[O-].[K+].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9370,"C1=CC=C(C[OH:1])C=C1.CC1=CC(C)=NC(C)=C1.CC1=CC2=C(CC(C)(C)C2=[C:2]=[O:3])O1.N#N|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7973,"C=CC(=O)O[C:1](C)=[O:2].CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8056,"C1=CC=C([CH2:1][Br:2])C=C1.C[NH:3]N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9716,"[AlH3-][O]CCC[O][AlH2-:1][H:2].[H:3][OH2+:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,486,"C1CCC2(O[OH:1])OCCCC2C1.CC(=O)O.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4871,"CC(=O)O.CC(=O)OI1(OC(C)=O)([O+:1](CC(=CC=C(C=O)SCC[Si](C)(C)C)SCC[Si](C)(C)C)[H:2])OC(=O)C2=C1C=CC=C2.CC(=O)OI1OC(=O)C2=C1C=CC=C2.CC(=O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,473,"COC1=C2C(=O)C3=C(OC)C([CH:1]([H:2])[O:3][S+:4](C)[CH2-:5])=CC=C3C(=O)C2=CC=C1.O=C(O)O.[Br-]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8681,"CC(C)=C1CC[C+:1](C)C(CC[C:2]#[C:3]C)C1(C)C.O.O=C[O-]|((3, 2), 1)"
train,pmechdb_split_0,0,9080,"C[N:1](C=O)[Cl:2].C[Si](C)(C)C=[C:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1228,"CC[OH+:1][C:2](C)(C)[O:3]CC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3370,"CCCC=CC([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[CH:1]([H:2])[C:3](CCCC)=[O:4].CC[OH:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9462,"CC(C)[CH2:1][Br:2].CN(C)[C:3](=[CH2:4])[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2865,"C1=CC=[NH+]C=C1.COC1=CC=C(C2OCC3OC(O[P:1](OC)(OC)(OC)[Br:2])C(C)C(C)C3O2)C=C1.[Br-]|((1, 2), 2)"
train,pmechdb_split_0,0,127,"CC(C(=O)C1CCCC2=C(C=CC=C2)C1=O)(C1=CC=CC=C1)[O:1][P:2](C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O-:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5182,"C1=CC=C(C[NH2:1])C=C1.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1958,"CCCC[N+](CCCC)(CCCC)CCCC.CCO[Si:1](C)(C)C.O.[OH-:2]|(2, 1)"
train,pmechdb_split_0,0,8715,"C1CCC2=[NH+]CCCN2CC1.CC=CC(C1=[N+](C2=C(F)C(F)=C(F)C(F)=C2F)N=C2COC3CC4=C(C=CC=C4)C3N21)(C(C1=CC=C(Br)C=C1)[C:1](C(=O)C1=CC=CC=C1)=[C:2](C1=CC=CC=C1)[O-:3])[O:4][H:5].F[B-](F)(F)F|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,951,"CC(=O)[O:1][H:2].CC1=CCC(C)([O-:3])[NH+]1CCO.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2522,"CCC[O:1]C.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,7271,"CC(C)O[C:1](C1=CC=CC=C1)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3069,"C[NH+:1]=[S:2](C)O|((2, 1), 1)"
